US08470831B2
A mixture of (E)-3-(3-acetoxy-4-fluoro-phenyl)-acrylic acid (119 mg, 0.53 mmol), 1-benzyl-1H-indazol-7-ylamine (118 mg, 0.53 mmol), EDC (123 mg, 0.64 mmol) and HOBT (36 mg, 0.27 mmol) in DMF (3 ml) was stirred at RT for 48 hrs. The mixture was then diluted with water and extracted with AcOEt. The organic layer was dried over sodium sulphate and evaporated to dryness. The crude was purified by column chromatography (petroleum ether: AcOEt from 9:1 to 1:1) to give the title (E)-N-(1-benzyl-1H-indazol-7-yl)-3-(4-fluoro-3-acetoxy-phenyl)-acrylamide (19 mg).

reactant | (E)-3-(3-acetoxy-4-fluoro-phenyl)-acrylic acid | 0.53 mmol, 119 mg | C(C)(=O)OC=1C=C(C=CC1F)/C=C/C(=O)O | C11H9FO4
reactant | 1-benzyl-1H-indazol-7-ylamine | 0.53 mmol, 118 mg | C(C1=CC=CC=C1)N1N=CC2=CC=CC(=C12)N | C14H13N3
reactant | EDC | 0.64 mmol, 123 mg
reactant | HOBT | 0.27 mmol, 36 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (E)-N-(1-benzyl-1H-indazol-7-yl)-3-(4-fluoro-3-acetoxy-phenyl)-acrylamide | 19 mg | C(C1=CC=CC=C1)N1N=CC2=CC=CC(=C12)NC(\C=C\C1=CC(=C(C=C1)F)OC(C)=O)=O | C25H20FN3O3
